US05721347
A solution of 13.8 g. (0.0788 mole) of ρ-chlorobenzoyl chloride and 10.5 g. (0.0788 mole) of aluminum chloride in 120 ml. of 1,2-dichloroethane is added to a refluxing soluton of 21.8 (0.0788 mole) of ethyl 3-ethoxycarbonyl-4-ethyl-1-methylpyrrole-2-acetate. The mixture is heated under reflux for 10 hours and stirred at room temperature for an additional 10 hours. It is then poured into ice-hydrochloric acid. The organic layer is separated and the aqueous layer washed with 1,2-dichloroethane. The combined organics are washed successively with water, N,N-dimethylaminopropylamine, dilute HCl and brine. The colution is then dried over anhydrous magnesium solfate and the solven evaporated in vacuo. The residual red oil residue crystallized on standing. It is recrystallized twice from methanol to give ethyl (5-ρ-chlorobenzoyl)-3-ethoxycarbonyl-4-ethyl-1-methylpyrrole-2-acetate as a white solid, M.P. 72°-74° C.

reactant | ρ-chlorobenzoyl chloride | 0.0788 mole | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | aluminum chloride | 0.0788 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl 3-ethoxycarbonyl-4-ethyl-1-methylpyrrole-2-acetate | C(C)OC(=O)C1=C(N(C=C1CC)C)CC(=O)OCC | C14H21NO4
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | ethyl (5-ρ-chlorobenzoyl)-3-ethoxycarbonyl-4-ethyl-1-methylpyrrole-2-acetate | ClC1=CC=C(C(=O)C2=C(C(=C(N2C)CC(=O)OCC)C(=O)OCC)CC)C=C1 | C21H24ClNO5
